US08471027B2
A solution of 4-[(E)-3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (4.02 g, 9.43 mmol) in acetone (150 mL) at 25° C. was treated with 10% palladium on activated carbon (402 mg, 3.78 μmol). The reaction was stirred under a balloon of hydrogen gas for 18 h. At this time, the reaction was filtered through a pad of Celite® and was rinsed with a solution of 10% methanol/methylene chloride (3×75 mL). The filtrate was concentrated in vacuo to afford 4-[3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propyl]-benzoic acid methyl ester (2.64 g, 65.4%) as a yellow solid. The material was used without further purification.

reactant | 4-[(E)-3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 9.43 mmol, 4.02 g | COC(C1=CC=C(C=C1)\C=C\C(C=1C(=NC(=CC1)C(F)(F)F)NC1=CC=CC=C1)=O)=O | C23H17F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
catalyst | palladium on activated carbon | 3.78 μmol, 402 mg | [Pd] | Pd
product | 4-[3-oxo-3-(2-phenylamino-6-trifluoromethyl-pyridin-3-yl)-propyl]-benzoic acid methyl ester | 2.64 g, 65.4% | COC(C1=CC=C(C=C1)CCC(C=1C(=NC(=CC1)C(F)(F)F)NC1=CC=CC=C1)=O)=O | C23H19F3N2O3
